US06953787B2
8-Chloro-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-chloro-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (0.421 g, 1.25 mmol) in methanol (30 mL) was treated with 15% aqueous NaOH (30 mL), and stirred overnight at 20 C. The product mixture was diluted with brine (100 mL), extracted twice with EtOAc (200 mL), dried with MgSO4, and concentrated to give 0.241 g of a clear oil. 1H NMR (400 MHz, CD3OD) d 7.05 (s, 1 H), 6.79 (s, 1 H), 3.84 (s, 3 H), 3.03 (m, 3 H), 2.91 (s, 1 H), 2.86−2.76 (m, 3 H), 2.64 (m, 1 H), 1.81 (m, 1 H), 1.72 (m, 1 H), 0.93 (dd, J=8, 8 Hz, 3 H). MS calculated for C13H18clNO+H: 240, observed: 240.

reactant | N-trifluoroacetyl-8-chloro-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.25 mmol, 0.421 g | FC(C(=O)N1CCC2=C(C(C1)CC)C=C(C(=C2)OC)Cl)(F)F | C15H17ClF3NO2
reactant | NaOH | 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | brine | 100 mL | [Cl-].[Na+].O
product | 8-Chloro-1-ethyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.241 g | ClC=1C(=CC2=C(C(CNCC2)CC)C1)OC | C13H18ClNO
